US04031093
Ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)pyrimidine-5-carboxylate (benzamidine fluorosulfonate)
To a solution of sodium (161 mg., 7 mg-atoms) in ethanol (10 ml.) was added 2-isobutoxybenzamidine fluorosulfonate (1.02 g., 3.5 mmole). The mixture was warmed to give a clear solution to which was added a solution of diethyl ethoxymethylenemalonate (756 mg., 3.5 mmole) in ethanol (2 ml.). The solution was heated under reflux for 3 hours. The cooled mixture was added to ice-water (50 ml.) and was acidified to pH 5 with glacial acetic acid. After brief stirring, the solid was collected by filtration, washed with water, and dried to give the title compound (0.94 g., 86%), m.p. 90°-91°.

reactant | sodium | 161 mg | [Na] | Na
reactant | 2-isobutoxybenzamidine fluorosulfonate | 3.5 mmole, 1.02 g | FS(=O)(=O)O.C(C(C)C)OC1=C(C(=N)N)C=CC=C1
reactant | diethyl ethoxymethylenemalonate | 3.5 mmole, 756 mg | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Ethyl 1,6-dihydro-6-oxo-2-(2-isobutoxyphenyl)pyrimidine-5-carboxylate | 0.94 g, 86% | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC(C)C)C(=O)OCC | C17H20N2O4
